US05849920
3-Chloro-6-hydrazino-2-propargyloxy-5-trifluoromethylpyridine
Starting from 7.8 g (0.155 mol) of hydrazine hydrate and 20 g (0.074 mol) of 2, 5-dichloro-6-propargyloxy-3-trifluoromethylpyridine, 11.0 g (56% of theory) of the title compound were obtained as a colorless powder of m.p. 98°-102° C. (Table II, No. 2.036) under the conditions of Example III.4.

reactant | hydrazine hydrate | 0.155 mol, 7.8 g | O.NN
reactant | 2, 5-dichloro-6-propargyloxy-3-trifluoromethylpyridine | 0.074 mol, 20 g | ClC1=NC(=C(C=C1C(F)(F)F)Cl)OCC#C | C9H4Cl2F3NO
product | 3-Chloro-6-hydrazino-2-propargyloxy-5-trifluoromethylpyridine | ClC=1C(=NC(=C(C1)C(F)(F)F)NN)OCC#C | C9H7ClF3N3O
